US06723722B1
Methyl 4-[(6-chloro-2-naphthyl)sulfonyl]-6-oxo-1-[[1-(4-pyridinyl)-4-piperidinyl]amino]-2-piperazinecarboxylate dihydrochloride (0.26 g) was dissolved in methylene chloride (20 ml) and saturated aqueous sodium bicarbonate (20 ml) and the phases were separated. The organic phase was dried over magnesium sulfate and concentrated under reduced pressure to obtain methyl 4-[(6-chloro-2-naphthyl)sulfonyl]-6-oxo-1-[[1-(4-pyridinyl)-4-piperidinyl]amino]-2-piperazinecarboxylate. This material was dissolved in a 37% aqueous solution of formaldehyde (3.1 ml) and formic acid (1.6 ml) and refluxed for 2 hours. The reaction mixture was cooled, made alkaline by adding a saturated aqueous sodium bicarbonate, extracted with dichloromethane, dried and concentrated. The residue thus obtained was purified by a column chromatography on a basic silica gel (ethyl acetate: methanol=10:1) to obtain methyl 4-[(6-chloro-2-naphthyl)sulfonyl]-1-[methyl[1-(4-pyridinyl)-4-piperidinyl]amino]-6-oxo-2-piperazinecarboxylate as a pale yellow oil.

reactant | Methyl 4-[(6-chloro-2-naphthyl)sulfonyl]-6-oxo-1-[[1-(4-pyridinyl)-4-piperidinyl]amino]-2-piperazinecarboxylate dihydrochloride | 0.26 g | Cl.Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(C(C1)=O)NC1CCN(CC1)C1=CC=NC=C1)C(=O)OC
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-[(6-chloro-2-naphthyl)sulfonyl]-6-oxo-1-[[1-(4-pyridinyl)-4-piperidinyl]amino]-2-piperazinecarboxylate | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(C(C1)=O)NC1CCN(CC1)C1=CC=NC=C1)C(=O)OC | C26H28ClN5O5S
